US07947685B2
Step 3: [3-(4-Methyl-thiazol-2-ylcarbamoyl)-pyrazin-2-yl]-pyridin-3-yl-carbamic acid tert-butyl ester
3-(tert-Butoxycarbonyl-pyridin-3-yl-amino)-pyrazine-2-carboxylic acid (405 mg, 80%, 1.02 mmol), 2-amino-4-methylthiazole (129 mg, 1.12 mmol), N,N-diisopropylethylamine (0.23 ml, 1.33 mmol) and TBTU (430 mg, 1.33 mmol) were dissolved in 1 ml DMF and stirred over night at room temperature. The reaction mixture was quenched with water and extracted two times with ethyl acetate. The organic extracts were washed with 2N NaOH-solution, water and brine, dried with sodium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (heptane/ethyl acetate 90:10->40:60 gradient). The desired compound was obtained as a yellow foam (195 mg, 46%), MS: m/e=413.3 (M+H+).

reactant | 3-(tert-Butoxycarbonyl-pyridin-3-yl-amino)-pyrazine-2-carboxylic acid | 1.02 mmol, 405 mg | C(C)(C)(C)OC(=O)N(C=1C(=NC=CN1)C(=O)O)C=1C=NC=CC1 | C15H16N4O4
reactant | 2-amino-4-methylthiazole | 1.12 mmol, 129 mg | NC=1SC=C(N1)C | C4H6N2S
reactant | N,N-diisopropylethylamine | 1.33 mmol, 0.23 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 1.33 mmol, 430 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [3-(4-Methyl-thiazol-2-ylcarbamoyl)-pyrazin-2-yl]-pyridin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C=1C=NC=CC1)C1=NC=CN=C1C(NC=1SC=C(N1)C)=O)=O | C19H20N6O3S
